US04147872
2-(4-Bromo-3-hydroxyphenyl)-2-methyloctane
In like manner, 2-(4-bromo-3-hydroxyphenyl)-2-methylnonane is prepared in 82% (8.5 g.) yield as an oil from 7.8 g. (0.033 mol.) of 2-(3-hydroxyphenyl)-2-methylnonane:

reactant | 2-(4-bromo-3-hydroxyphenyl)-2-methylnonane | BrC1=C(C=C(C=C1)C(C)(CCCCCCC)C)O | C16H25BrO
reactant | 2-(3-hydroxyphenyl)-2-methylnonane | 0.033 mol | OC=1C=C(C=CC1)C(C)(CCCCCCC)C | C16H26O
product | 2-(4-Bromo-3-hydroxyphenyl)-2-methyloctane | BrC1=C(C=C(C=C1)C(C)(CCCCCC)C)O | C15H23BrO
